US06890885B2
Preparation of 3-hydroxy-4,4-dimethyl-2-(2-methyl-6-trifluoromethyl-pyridine-3-carbonyl)-cyclohex-2-enone (A2-B24)
The 2-methyl-6-trifluoromethyl-nicotinic acid (1.026 g, 0.005 mol) obtained is dissolved in 20 ml of oxalyl chloride. Three drops of dimethylformamide are added and the mixture is refluxed for 1 hour. The mixture is then concentrated by evaporation using a rotary evaporator and the residue (2-methyl-6-trifluoromethyl-nicotinoyl chloride) is taken up in 100 ml of methylene-chloride. At a temperature of 0° C., 1.6 ml (0.0115 mol) of triethylamine and 0.7 g (0.005 mol) 4,4-dimethyl-cyclohexane-1,3-dione are added. After 2 hours at a temperature of 22° C., the solvent is removed using a vacuum rotary evaporator, the residue that remains is dissolved in 55 ml of acetonitrile and, for rearrangement of the intermediate, 0.15 ml (0.0016 mol) of acetone cyanohydrin and 0.79 ml (0.0057 mol) of triethylamine are added. After stirring for four hours at room temperature, the reaction solution is concentrated by evaporation. The syrup that remains is chromatographed on silica gel. The light-yellow, viscous oil obtained by eluting with a mixture of toluene, ethyl alcohol, dioxane, triethylamine and water (100:40:20:20:5 parts by volume) (Rf=0.39 based on the said mixture as mobile phase) is dissolved in dichloromethane and washed with 75 ml of hydrochloric acid 5% and 75 ml of water in succession. After drying the organic solution with Na2SO4, concentration by evaporation yields 1.05 g (63%) of pure title compound.

reactant | 2-methyl-6-trifluoromethyl-nicotinic acid | 0.005 mol, 1.026 g | CC1=C(C(=O)O)C=CC(=N1)C(F)(F)F | C8H6F3NO2
reactant | triethylamine | 0.0115 mol, 1.6 ml | C(C)N(CC)CC | C6H15N
reactant | 4,4-dimethyl-cyclohexane-1,3-dione | 0.005 mol, 0.7 g | CC1(C(CC(CC1)=O)=O)C | C8H12O2
reactant | acetone cyanohydrin | 0.0016 mol, 0.15 ml | CC(C#N)(O)C | C4H7NO
reactant | triethylamine | 0.0057 mol, 0.79 ml | C(C)N(CC)CC | C6H15N
solvent | oxalyl chloride | 20 ml | C(C(=O)Cl)(=O)Cl | C2Cl2O2
catalyst | dimethylformamide | Three drops | CN(C=O)C | C3H7NO
solvent | acetonitrile | 55 ml | C(C)#N | C2H3N
product | 3-hydroxy-4,4-dimethyl-2-(2-methyl-6-trifluoromethyl-pyridine-3-carbonyl)-cyclohex-2-enone | 1.05 g, 63% | OC1=C(C(CCC1(C)C)=O)C(=O)C=1C(=NC(=CC1)C(F)(F)F)C | C16H16F3NO3
